US07304071B2
To a solution of 2,4-dichloro-5-fluoropyrimidine (0.478 g, 2.86 mmol) and 4-carboxyphenyl boronic acid methyl ester (0.516 g, 2.86 mmol) in 5 mL of ethyleneglycol dimethyl ether was added Pd(PPh3)4 under argon, followed by 2N Na2CO3 and the resulting mixture purged with argon for 2 minutes. The resulting mixture was sealed and heated at 85° C. overnight. After 18 hours, the reaction was diluted with 20 mL of ethyl acetate and washed with H2O. The organic layer was concentrated and purified by chromatography (Silica, 10% ethyl acetate in hexanes) to afford 4-(2-chloro-5-fluoropyrimidin-4-yl)-benzoic acid methyl ester (0.35 g, 46%) as a white solid. LCMS: ES+=267.

reactant | 2,4-dichloro-5-fluoropyrimidine | 2.86 mmol, 0.478 g | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 4-carboxyphenyl boronic acid methyl ester | 2.86 mmol, 0.516 g | COB(O)C1=CC=C(C=C1)C(=O)O | C8H9BO4
reactant | Na2CO3 | 2N | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyleneglycol dimethyl ether | 5 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2-chloro-5-fluoropyrimidin-4-yl)-benzoic acid methyl ester | 0.35 g, 46% | COC(C1=CC=C(C=C1)C1=NC(=NC=C1F)Cl)=O | C12H8ClFN2O2
